US06562989B2
N-n-hexyl-2,5-dimethylaniline (Table 7, Entry 9)
According to the general procedure B, 2-Chloro-p-xylene (73 mg, 0.52 mmol) reacted with n-hexylamine (62 mg, 0.61 mmol) using 1 mol % of Pd(dba)2, 2 mol % of Ph5FcP(t-Bu)2, and sodium tert-butoxide (60 mg, 0.63 mmol) in toluene at 100° C. for 10 h to give the title compound (90 mg, 87%) as a colorless oil: 1H-NMR (400 MHz, CDCl3): δ 7.00 (d, 1H, J=7.2 Hz), 6.54 (d, 1H, J=7.6 Hz), 6.51 (s, 1H), 3.45 (bs, 1H), 3.20 (dd, 2H, J=6.8 and 7.2 Hz), 2.37 (s, 3H), 2.16 (s, 3H), 1.73 (m, 2H), 1.49 (m, 2H), 1.41 (m, 4H), 0.99 (t, 1H, J=6.8 and 7.2 Hz). 13C{1H}-NMR (100 MHz, CDCl3): δ 146.23, 136.65, 129.77, 118.61, 117.14, 110.46, 43.92, 31.63, 29.56, 26.90, 22.63, 21.54, 16.98, 14.03. GC/MS(EI): m/z 205 (M+).

reactant | 2-Chloro-p-xylene | 0.52 mmol, 73 mg | ClC1=C(C=CC(=C1)C)C | C8H9Cl
reactant | n-hexylamine | 0.61 mmol, 62 mg | C(CCCCC)N | C6H15N
reactant | sodium tert-butoxide | 0.63 mmol, 60 mg | CC(C)([O-])C.[Na+]
solvent | toluene | C1(=CC=CC=C1)C | C7H8
catalyst | Pd(dba)2 | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd]
product | N-n-hexyl-2,5-dimethylaniline | 90 mg, 87% | C(CCCCC)NC1=C(C=CC(=C1)C)C | C14H23N
